US09422281B2
Iron powder (1.010 g, 18.09 mmol) was added to a solution of isopropyl (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-6-nitro-3,4-dihydroquinoxaline-1 (2H)-carboxylate (0.86 g, 1.81 mmol) in ethanol (12 mL) and water (2.4 mL). 1 N aqueous HCl (1 drop) was added, and the reaction was heated at 90° C. for 2 h. The mixture was cooled to rt and filtered through a pad of Celite, washing with ethanol. The filtrate was concentrated, and ethyl acetate was added. The solution was washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford isopropyl (S)-4-acetyl-6-amino-3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 468 [M+Na]+.

reactant | isopropyl (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-6-nitro-3,4-dihydroquinoxaline-1 (2H)-carboxylate | 1.81 mmol, 0.86 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)[N+](=O)[O-])C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC(C)C)C | C22H25N3O7S
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 2.4 mL | O | H2O
catalyst | HCl | 1 N, 1 drop | Cl | ClH
catalyst | Iron | 18.09 mmol, 1.010 g | [Fe] | Fe
product | isopropyl (S)-4-acetyl-6-amino-3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)N)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC(C)C)C | C22H27N3O5S
